US04751245
(A) 6,6-Dimethyl-2,4-heptadiyne-1-ol
Nitrogen was bubbled through a mixture of cupric chloride (154 mg), NH2OH.HCl (0.45 g), and 70% aqueous diethylamine (9 ml) in 11 ml of water and 23 ml of methanol, for a few minutes. Propargyl alcohol (3.8 g, 0.068 mol) was added with stirring under nitrogen whereupon a yellow precipitate formed immediately. The mixture was warmed to 35°-40° C. for 15 minutes and 1-bromo-2-t-butyl-acetylene (8.57 g, 0.053 mmol) was added over 15 minutes. The mixture was stirred at 35°-40° C. for 45 minutes, then at room temperature for 1 hour. Aqueous potassium cyanide (0.45 g in 45 ml of water) was added and the mixture was stirred for one minute. The mixture was poured into 50 ml of water and extracted 5 times with ether. The combined organic phase was washed with water and dried over magnesium sulfate. The solvents were removed and the residue was distilled under reduced pressure through a column packed with glass helices. 6,6-Dimethyl-2,4-heptadiyne-1-ol (3.63 grams) was collected at 85° C. and 0.5 mm of mercury.

reactant | Propargyl alcohol | 0.068 mol, 3.8 g | C(C#C)O | C3H4O
reactant | 1-bromo-2-t-butyl-acetylene | 0.053 mmol, 8.57 g | BrC#CC(C)(C)C | C6H9Br
reactant | potassium cyanide | 45 ml, 0.45 g | [C-]#N.[K+]
solvent | water | 50 ml | O | H2O
product | 6,6-Dimethyl-2,4-heptadiyne-1-ol | CC(C#CC#CCO)(C)C | C9H12O
